US09315489B2
Stage 18.1 3-Bromo-4-fluoro-N-(4-(trifluoromethoxy)phenyl)benzamide
SOCl2 (2.92 mL, 40.0 mmol) and DMF (0.5 mL) were added dropwise to a suspension of 3-bromo-4-fluorobenzoic acid (1.752 g, 8 mmol) in toluene (20 mL) and the RM was stirred at 80° C. for 1 h The solvent was evaporated off under reduced pressure and the residue was diluted with THF (15 mL). DIPEA (2.79 mL, 16.00 mmol) was added and the mixture was cooled to 0° C., treated with a solution of 4-trifluoromethoxyaniline (1.181 mL, 8.80 mmol) in THF (5 mL) and stirred for 1 h. The RM was treated with aq. sat. 1 M HCl (50 mL), and extracted with TBME. The combined extracts were washed with aq. 1 M HCl, aq. 1 M NaOH and brine, dried over MgSO4 and the solvent was evaporated off under reduced pressure to give a residue was crystallized from n-heptane/DCM to afford the title compound as a white solid. UPLC-MS (Condition 1) tR=3.18 min, m/z=377.9, 379.9 [M+H]+, m/z=375.9, 377.9 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm 7.38 (d, J=8.6 Hz, 2H) 7.56 (t, J=8.7 Hz, 1H) 7.87 (d, J=9.0 Hz, 2H) 8.00-8.06 (m, 1H) 8.32 (dd, J=6.6, 2.2 Hz, 1H) 10.50 (s, 1H).

reactant | SOCl2 | 40.0 mmol, 2.92 mL | O=S(Cl)Cl | Cl2OS
reactant | 3-bromo-4-fluorobenzoic acid | 8 mmol, 1.752 g | BrC=1C=C(C(=O)O)C=CC1F | C7H4BrFO2
reactant | DIPEA | 16.00 mmol, 2.79 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-trifluoromethoxyaniline | 8.80 mmol, 1.181 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | HCl | 1 M, 50 mL | Cl | ClH
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-4-fluoro-N-(4-(trifluoromethoxy)phenyl)benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1F | C14H8BrF4NO2
